US07652032B2
2-methyl-5-benzothiazolyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the process in a manner similar to example 7, starting from 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide and 2-methyl-5-hydroxybenzothiazole, the desired product is obtained in the form of white crystals with a yield of 6%.

reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 2-methyl-5-hydroxybenzothiazole | CC=1SC2=C(N1)C=C(C=C2)O | C8H7NOS
product | 2-methyl-5-benzothiazolyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 6% | C(C)(=O)O[C@H]1[C@H](OC=2C=CC3=C(N=C(S3)C)C2)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H21NO7S2
